US05688943
60A 3-Dimethylaminomethyl benzonitrile
To a solution of 3-cyanobenzaldehyde (2.50 g, 19 mmol) in MeOH:AcOH (25 ml, 99:1) was added dimethyl amine (2.5 ml, 50 mmol) at 0° C., followed by NaBH3CN (1.80 g, 29 mmol). The mixture was stirred at 0° C. for 18 hours, then evaporated, taken up in EtOAc, washed with 5% KHCO3, brine filtered (Whatman® 1 PS phase separator) and evaporated. The residue was purified by flash chromatography on silica gel (eluant EtOAc:MeOH 98:2 v/v) to give the title compound (1.15 g, 38 %).

reactant | 3-cyanobenzaldehyde | 19 mmol, 2.50 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | AcOH | 25 ml | CC(=O)O | C2H4O2
reactant | dimethyl amine | 50 mmol, 2.5 ml | CNC | C2H7N
reactant | NaBH3CN | 29 mmol, 1.80 g | [BH3-]C#N.[Na+]
solvent | MeOH | CO | CH4O
product | 3-Dimethylaminomethyl benzonitrile | 1.15 g, 38 % | CN(C)CC=1C=C(C#N)C=CC1 | C10H12N2
